US06562828B1
N,N′-Di-tert-Butoxycarbonyl-7-[1-(5-nitropyridin-2-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine
To a solution of N,N′-di-tert-butoxycarbonyl-7-(piperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine (120 mg) in a mixture of tetrahydrofuran (1.2 ml) and dimethylformamide (1.2 ml) were added triethylamine (0.068 ml) and 2-chloro-5-nitropyridine (58 mg), and the mixture was stirred at room temperature for 2 hours. After completion of the reaction, the mixture was extracted with ethyl acetate and washed successively with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (hexane:acetone=4:1) and dried under reduced pressure to give the title compound (120 mg).

reactant | N,N′-di-tert-butoxycarbonyl-7-(piperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine | 120 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1CC2=CC(=CC=C2CC1)OCC1CCNCC1 | C26H40N4O5
reactant | triethylamine | 0.068 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5-nitropyridine | 58 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | tetrahydrofuran | 1.2 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 1.2 ml | CN(C=O)C | C3H7NO
product | N,N′-Di-tert-Butoxycarbonyl-7-[1-(5-nitropyridin-2-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine | 120 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C31H42N6O7
